US05127937
Synthesis of preparation intermediate, methyl 2-(aminosulfonyl)-4-(2,5-dihydro-3,4-dimethyl-2,5-dioxo-1H-pyrrol-1-yl)benzoate (Compound No. II-B-4)
In 3 ml of acetic acid, 1 mmol of methyl 4-amino-2-(aminosulfonyl)benzoate and 1.05 mmol of 2,3-dimethylmaleic anhydride were stirred at 80° C. for 40 hours. Acetic acid was then distilled off from the reaction mixture, followed by the addition of 20 ml of ice water to the oily residue. After the mixture thus formed was stirred for 2 hours, the resulting precipitate was collected by filtration and then dried in air. Yield: 43%. Its physiocochemical properties are shown in Table 8.

reactant | methyl 4-amino-2-(aminosulfonyl)benzoate | 1 mmol | NC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)N | C8H10N2O4S
reactant | 2,3-dimethylmaleic anhydride | 1.05 mmol | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | methyl 2-(aminosulfonyl)-4-(2,5-dihydro-3,4-dimethyl-2,5-dioxo-1H-pyrrol-1-yl)benzoate | Yield: 43% | NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)N1C(C(=C(C1=O)C)C)=O | C14H14N2O6S
